datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[H:10]>>[C:0]([C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])([H:5])[H:10],-1.96648
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[C:11](=[C:12]([H:14])[H:15])[H:13]>>[C:0](=[C:1]=[C:2]([C:3]([H:8])([H:9])[H:10])[H:7])([H:4])[H:5].[H:6][C:11](=[C:12]([H:14])[H:15])[H:13],0.0
[C:0](=[C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([C:4]([H:11])([H:12])[H:13])=[O:5])([H:6])[H:7].[H:14]>>[C:0](=[C:1]([C:2]([H:9])[H:10])[C:3]([C:4]([H:11])([H:12])[H:13])=[O:5])([H:6])[H:7].[H:8][H:14],10.426528
[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([C:4]([O:5])([H:15])[H:16])([H:13])[H:14])[H:9])([H:6])([H:7])[H:8]>>[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])[C:3]([C:4]([O:5][H:9])([H:15])[H:16])([H:13])[H:14])([H:6])([H:7])[H:8],100.834
[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])[H:6])[H:5].[C:8]([C:9]([S:10][H:17])([C:11](=[S:12])[H:18])[H:16])([H:13])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])([H:6])[H:16])[H:5].[C:8]([C:9]([S:10][H:17])[C:11](=[S:12])[H:18])([H:13])([H:14])[H:15],14.2256
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:34])([H:35])[H:36])([H:32])[H:33])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])[H:15])([H:12])([H:13])[H:14].[C:37]([H:38])([H:39])[H:40]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:34])([H:35])[H:36])([H:32])[H:33])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])[H:15])([H:13])[H:14].[H:12][C:37]([H:38])([H:39])[H:40],0.0
[C:0]([H:1])([H:2])[H:3].[C:4](=[C:5]([O:6][H:9])[H:8])[H:7]>>[C:0]([H:1])([H:2])([H:3])[H:8].[C:4](#[C:5][O:6][H:9])[H:7],0.0
[C:0]([C:1]([c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])([H:11])[H:12])([H:8])([H:9])[H:10].[O:18][O:19][H:20]>>[C:0]([C:1]([c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])([H:11])[H:12])([H:9])[H:10].[H:8][O:18][O:19][H:20],58.19944
[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])([H:6])[H:7])[H:5].[C:9](=[C:10]=[C:11]([H:13])[H:14])[H:12]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])[H:7])[H:5].[H:6][C:9](=[C:10]=[C:11]([H:13])[H:14])[H:12],51.0866
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([H:15])([H:16])[H:17])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8])([H:6])[H:7].[H:18]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([H:15])([H:16])[H:17])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8])([H:6])[H:7].[H:13][H:18],18.706664
[C:5]([H:6])([H:7])[H:8].[O:0]=[C:1]([S:2][H:4])[H:3]>>[H:4][C:5]([H:6])([H:7])[H:8].[O:0]=[C:1]([S:2])[H:3],-3.5564
[C:0](=[C:1]=[C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])[H:6].[C:13]([C:14](=[C:15]([H:19])[H:20])[H:18])([H:16])[H:17]>>[C:0](=[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[C:13]([C:14](=[C:15]([H:19])[H:20])[H:18])([H:16])[H:17])([H:5])[H:6],62.3416
[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[C:27]([H:28])([H:29])[H:30]>>[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])[H:13])([H:9])([H:10])[H:11].[H:12][C:27]([H:28])([H:29])[H:30],46.705992
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])[H:11])[H:7].[C:15](#[C:16][C:17]([H:19])[H:20])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])([H:11])[C:17]([C:16]#[C:15][H:18])([H:19])[H:20])[H:7],31.129
[C:0]([O:1][H:5])([H:2])([H:3])[H:4].[C:6]([H:7])([H:8])[H:9]>>[C:0]([O:1][H:5])([H:3])[H:4].[H:2][C:6]([H:7])([H:8])[H:9],16.3021192
[C:0]([C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4](=[O:5])[H:16])[O:6][O:7][H:17])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4](=[O:5])[H:16])[O:6])([H:11])[H:12])([H:8])([H:9])[H:10].[O:7][H:17],172.3808
[C:0]([C:1]([S:2][H:8])([H:6])[H:7])([H:3])([H:4])[H:5].[C:9]([C:10]([S:11][H:21])[c:12]1[c:13]([H:22])[c:14]([H:23])[c:15]([H:24])[c:16]([H:25])[c:17]1[H:26])([H:18])([H:19])[H:20]>>[C:0]([C:1]([S:2][H:8])[H:7])([H:3])([H:4])[H:5].[H:6][C:10]([C:9]([H:18])([H:19])[H:20])([S:11][H:21])[c:12]1[c:13]([H:22])[c:14]([H:23])[c:15]([H:24])[c:16]([H:25])[c:17]1[H:26],41.4216
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([S:4][C:5]([H:11])([H:12])[H:13])[H:7])[H:6].[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([S:4][H:14])[H:7])[H:6].[C:5]([H:11])([H:12])[H:13],15.8992
[C:0](=[C:1]([H:3])[H:4])[H:2].[C:5]#[C:6][H:7]>>[C:0](#[C:1][H:4])[H:2].[H:3][C:5]#[C:6][H:7],0.0
